US04789683
(-)-N-Ethyl-2-(3-chloro-2-hydroxy-6-methoxybenzamidomethyl)pyrrolidine hydrochloride
9.1 g (0.025 mole) of (-)-N-ethyl-2-(3-chloro-2,6-dimethoxybenzamidomethyl)pyrrolidine is dissolved in 250 ml of methylene chloride. 2.6 ml (0.027 mole) of boron tribromide is added. The mixture is left over night at room temperature. It is then washed with 2×100 ml of 2N NH3 and 100 ml of water, dried over Na2SO4 and evaporated. The residue is dissolved in diluted HCl and extracted with ether. The water phase is made alkaline with NH3 and is extracted with chloroform. The extract is dried over Na2SO4 and evaporated. The residue is dissolved in ether and HCl-ether is added. The precipitate is filtered off and dried over P2O5. M.p. sinterring at 100° C. Yield 7.4 g [α]D20 =-51.4° (2% ethanol; pH 10.3).

reactant | (-)-N-ethyl-2-(3-chloro-2,6-dimethoxybenzamidomethyl)pyrrolidine | 0.025 mole, 9.1 g | C(C)N1C(CCC1)CNC(C1=C(C(=CC=C1OC)Cl)OC)=O | C16H23ClN2O3
reactant | boron tribromide | 0.027 mole, 2.6 ml | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | (-)-N-Ethyl-2-(3-chloro-2-hydroxy-6-methoxybenzamidomethyl)pyrrolidine hydrochloride | Cl.C(C)N1C(CCC1)CNC(C1=C(C(=CC=C1OC)Cl)O)=O | InChI=1S/C15H21ClN2O3.ClH/c1-3-18-8-4-5-10(18)9-17-15(20)13-12(21-2)7-6-11(16)14(13)19;/h6-7,10,19H,3-5,8-9H2,1-2H3,(H,17,20);1H
